US09334269B2
To a solution of 2-chloro-6-(3-(4-fluorophenoxy) azetidin-1-yl)pyridine (500 mg, 1.79 mmoL) and 4-amino-N-methylbenzamide (270 mg, 1.79 mmol) in dimethylacetamide (5 mL, 3 mL/mmol) was added cesium carbonate (873 mg, 2.68 mmol) and the reaction was degassed for 15 min. Pd2(dba)3 (81 mg, 0.089 mmol) and BINAP (55 mg, 0.089 mmol) were added and the reaction was allowed to heat at 120° C. in the microwave. The reaction was quenched with water and extracted with EtOAc (2×50 mL). The organic extracts were washed with brine, dried over sodium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography to afford 3-(6-(3-(4-fluorophenoxy) azetidin-1-yl)pyridin-2-ylamino)-N-methylbenzamide (61 mg, 13%) as a solid. Observed mass (M+1): 393.1. The following compounds were prepared as described in Example V above using appropriate starting materials.

reactant | 2-chloro-6-(3-(4-fluorophenoxy) azetidin-1-yl)pyridine | 500 mg | ClC1=NC(=CC=C1)N1CC(C1)OC1=CC=C(C=C1)F | C14H12ClFN2O
reactant | 4-amino-N-methylbenzamide | 1.79 mmol, 270 mg | NC1=CC=C(C(=O)NC)C=C1 | C8H10N2O
reactant | cesium carbonate | 2.68 mmol, 873 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.089 mmol, 55 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd2(dba)3 | 0.089 mmol, 81 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(6-(3-(4-fluorophenoxy) azetidin-1-yl)pyridin-2-ylamino)-N-methylbenzamide | 61 mg, 13% | FC1=CC=C(OC2CN(C2)C2=CC=CC(=N2)NC=2C=C(C(=O)NC)C=CC2)C=C1 | C22H21FN4O2
